US06093731
A mixture of methyl 1-aminocyclohexanecarboxylate (325 mg, 1.68 mmol), NEt3 (0.49 mL, 3.5 mmol) and 1,4-dichloro-7-isoquinolinesulphonyl chloride (415 mg, 1.40 mmol) in CH2Cl2 (30 mL) was stirred at 23° C. for 16 h. The mixture was diluted with CH2Cl2, washed with dilute HCl (2 M), saturated aqueous NaHCO3, brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by column chromatography upon silica gel using hexane-EtOAc (80:20 to 70:30) as eluant, followed by trituration with i-Pr2O, to give to give methyl 1-{[(1,4-dichloro-7-isoquinolinyl)sulphonyl]amino}-cyclohexanecarboxylate (132 mg, 0.32 mmol) as a white solid.

reactant | methyl 1-aminocyclohexanecarboxylate | 1.68 mmol, 325 mg | NC1(CCCCC1)C(=O)OC | C8H15NO2
reactant | NEt3 | 3.5 mmol, 0.49 mL | CCN(CC)CC | C6H15N
reactant | 1,4-dichloro-7-isoquinolinesulphonyl chloride | 1.40 mmol, 415 mg | ClC1=NC=C(C2=CC=C(C=C12)S(=O)(=O)Cl)Cl | C9H4Cl3NO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | methyl 1-{[(1,4-dichloro-7-isoquinolinyl)sulphonyl]amino}-cyclohexanecarboxylate | 0.32 mmol, 132 mg | ClC1=NC=C(C2=CC=C(C=C12)S(=O)(=O)NC1(CCCCC1)C(=O)OC)Cl | C17H18Cl2N2O4S
